US08486977B2
2-Biphenylylmethyl azide
To a solution of 2-(bromomethyl)biphenyl (1.5 g, 6 mmol) in DMSO (15 mL) was added sodium azide (0.59 g, 9 mmol) and a catalytic amount of sodium iodide. The mixture was stirred at room temperature for 2 days. After concentration under reduced pressure, the residue was diluted with ethyl acetate. The organic layer was washed with brine (2×60 mL), dried on sodium sulphate and after filtration was evaporated to dryness to give the title compound as an oil (1.1 g, 87%). 1H NMR (300 MHz, CDCl3, ppm) δ: 7.56−7.38 (m, 9H), 4.37 (s, 2H).

reactant | 2-(bromomethyl)biphenyl | 6 mmol, 1.5 g | BrCC1=C(C=CC=C1)C1=CC=CC=C1 | C13H11Br
reactant | sodium azide | 9 mmol, 0.59 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium iodide | [I-].[Na+]
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | 2-Biphenylylmethyl azide | 1.1 g, 87% | C1(=C(C=CC=C1)CN=[N+]=[N-])C1=CC=CC=C1 | C13H11N3
